US07129243B2
(2E)-3-(4-Chlorophenyl)-N-[(1S)-2-[(2-{4-[(3,5-dichloro-2-pyridyl)oxy]-1-piperidinyl}-2-oxoethyl)amino]-2-oxo-1-(2-pyridylmethyl)ethyl]-2-propenamide
To a mixture of {[(2S)-2-{[(2E)-3-(4-chlorophenyl)-2-propenoyl]amino}-3-(2-pyridyl)propanoyl]amino}acetic acid (0.19 g), 3,5-dichloro-2-(4-piperidinyloxy)pyridine dihydrochloride (0.16 g), 1-hydroxybenzotriazole (0.084 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.11 g) in N,N-dimethylformamide (2.5 ml) was added dropwise N,N-diisopropylethylamine (0.27 ml) at 8° C. The mixture was warmed to room temperature and stirred for 6 hours. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography to give the title compound (231 mg).

reactant | {[(2S)-2-{[(2E)-3-(4-chlorophenyl)-2-propenoyl]amino}-3-(2-pyridyl)propanoyl]amino}acetic acid | 0.19 g | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(=O)NCC(=O)O)CC1=NC=CC=C1 | C19H18ClN3O4
reactant | 3,5-dichloro-2-(4-piperidinyloxy)pyridine dihydrochloride | 0.16 g | Cl.Cl.ClC=1C(=NC=C(C1)Cl)OC1CCNCC1
reactant | 1-hydroxybenzotriazole | 0.084 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.11 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (2E)-3-(4-Chlorophenyl)-N-[(1S)-2-[(2-{4-[(3,5-dichloro-2-pyridyl)oxy]-1-piperidinyl}-2-oxoethyl)amino]-2-oxo-1-(2-pyridylmethyl)ethyl]-2-propenamide | 231 mg | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(=O)NCC(=O)N1CCC(CC1)OC1=NC=C(C=C1Cl)Cl)CC1=NC=CC=C1 | C29H28Cl3N5O4
